US05786364
(a) 2-((3-Chlorophenyl)carbonyl)amino-5-nitroindane
To 2-amino-5-nitroindane hydrochloride (1.5 g, 7.0 mmol) in methylene chloride (50 ml) at 0° C. was added triethylamine (2.1 ml, 15.0 mmol) followed by 3-chlorobenzoyl chloride (1.0 ml, 7.5 mmol). The mixture was dumped immediately into water and the layers separated. The aqueous layer was extracted with methylene chloride (2×20 ml) and the combined extracts washed with water, dried over MgSO4, filtered, and concentrated to an oil which was homogeneous by TLC and used immediately in the next step: M.S. (M+H)+ =317.

reactant | 2-amino-5-nitroindane hydrochloride | 7.0 mmol, 1.5 g | Cl.NC1CC2=CC=C(C=C2C1)[N+](=O)[O-]
reactant | triethylamine | 15.0 mmol, 2.1 ml | C(C)N(CC)CC | C6H15N
reactant | 3-chlorobenzoyl chloride | 7.5 mmol, 1.0 ml | ClC=1C=C(C(=O)Cl)C=CC1 | C7H4Cl2O
reactant | water | O | H2O
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 2-((3-Chlorophenyl)carbonyl)amino-5-nitroindane | ClC=1C=C(C=CC1)C(=O)NC1CC2=CC=C(C=C2C1)[N+](=O)[O-] | C16H13ClN2O3
